US08222416B2
To a solution of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine (37.3 mg, 0.84 mmol) in methanol (4 mL) at 0° C. was added a solution of potassium permanganate (13.3 mg, 0.084 mmol) in water (2 mL) dropwise. After stirring for 2 h at 0° C., the mixture was extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, filtered through a short silica gel pad (QingDao silica gel, 200-300 mesh), and concentrated in vacuo to give the residue. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-ethanesulfonyl-1H-pyrrolo[2,3-b]pyridine (8 mg, 21%): LC/MS m/e calcd for C23H28N2O4S2 [M+H]+ 461.62, observed 461.0; 1H NMR (400 MHz, CD3OD) δ ppm 8.59 (d, J=2.0 Hz, 1H), 8.38 (d, J=2.0 Hz, 1H), 7.88-7.92 (m, J=8.3 Hz, 2H), 7.59-7.63 (m, J=8.3 Hz, 2H), 6.62 (s, 1H), 4.36 (t, J=8.0 Hz, 1H), 3.25 (q, J=7.4 Hz, 4H), 3.07-3.13 (m, 4H), 2.26-2.34 (m, 1H), 2.11-2.19 (m, 1H), 1.61-1.71 (m, 2H), 1.46-1.53 (m, 2H), 1.23 (t, J=7.3 Hz, 5H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridine | 0.84 mmol, 37.3 mg | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)S(=O)CC)N1 | C23H28N2O3S2
reactant | potassium permanganate | 0.084 mmol, 13.3 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-ethanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 8 mg, 21% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)S(=O)(=O)CC)N1 | C23H28N2O4S2
